US07034029B2
Preparation of 1-(Phenylsulfonyl)-4-piperazin-1-yl-1H-indole Hydrochloride
A portion of the t-butyl 4-(1-benzenesulfonyl-1H-indol-4-yl)piperazine-1-carboxylate (0.85 g) is stirred in a mixture of 4N HCl and dioxane at room temperature for 2 hrs and filtered. The filtercake is dried to give the title product as a while solid, 0.64 g (99% yield) mp 60° C. identified by mass spectral and NMR analyses.

reactant | t-butyl 4-(1-benzenesulfonyl-1H-indol-4-yl)piperazine-1-carboxylate | 0.85 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C23H27N3O4S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(Phenylsulfonyl)-4-piperazin-1-yl-1H-indole Hydrochloride | 99% yield | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C18H19N3O2S.ClH/c22-24(23,15-5-2-1-3-6-15)21-12-9-16-17(7-4-8-18(16)21)20-13-10-19-11-14-20;/h1-9,12,19H,10-11,13-14H2;1H
